US05733936
125 g (630 mmole) 3,3-dimethyl-1,5-dioxa-spiro[5,5]undecan-8-one, which was obtained by the azeotropic acetylation of cyclohexane-1,3-dione with 2,2-dimethylpropane-1,3-diol in toluene as a solvent using p-toluenesulphonic acid as a catalyst, and 59 g (630 mmole) dimethylammonium methylene chloride were stirred at room temperature in 400 ml of dry acetonitrile. After adding 1 ml acetyl chloride the mixture was stirred for a further 3 hours at room temperature, whereupon a clear colourless solution was obtained. 800 ml of dry ether were then added drop-wise to the reaction mixture, whereupon the hydrochloride crystallised out. 158 g of (18) were obtained (98% theoretical).

reactant | cyclohexane-1,3-dione | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 2,2-dimethylpropane-1,3-diol | CC(CO)(CO)C | C5H12O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,3-dimethyl-1,5-dioxa-spiro[5,5]undecan-8-one | 630 mmole, 125 g | CC1(COC2(OC1)CC(CCC2)=O)C | C11H18O3
